US06340691B1
6-Amino-2-(4-but-2-ynoxy-benzenesulfonyl)-hexanoic acid hydroxyamide resin (0.33 g, 1.1 meq/g) prepared in step B was acylated with 2-bibenzylcarboxylic acid (1.6 g, 4.0 eq) according to the procedure in Example 13, Step E to give N-[5-(4-but-2-ynyloxy-benzenesulfonyl)-5-hydroxycarbamoyl-pentyl]-2-phenethyl-benzamide resin.

reactant | 6-Amino-2-(4-but-2-ynoxy-benzenesulfonyl)-hexanoic acid hydroxyamide | 0.33 g | ONC(C(CCCCN)S(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C16H22N2O5S
reactant | 2-bibenzylcarboxylic acid | 1.6 g, 4.0 eq | C=1(C(=CC=CC1)C(=O)O)CCC1=CC=CC=C1 | C15H14O2
product | N-[5-(4-but-2-ynyloxy-benzenesulfonyl)-5-hydroxycarbamoyl-pentyl]-2-phenethyl-benzamide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C(CCCCNC(C1=C(C=CC=C1)CCC1=CC=CC=C1)=O)C(NO)=O | C31H34N2O6S
